US20010001799A1
6.2 ml of methyl acrylate, 25 ml of triethylamine, 270 mg of Pd(OAc)2 and 1.5 g of tri-(o-tolyl)-phosphine were added to a solution of 14.7 g of 6-bromoveratraldehyde in 100 ml of dimethylacetamide. The reaction mixture was heated for 4 hours to 110° C., then left to cool to room temperature and poured into a mixture of ethyl acetate and water. The crude product was extracted and purified by chromatography on silica gel and yielded 10.8 g of methyl (E)-3-(2-formyl-4,5-dimethoxy-phenyl)-acrylate as a yellow solid.

reactant | methyl acrylate | 6.2 ml | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
reactant | tri-(o-tolyl)-phosphine | 1.5 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 6-bromoveratraldehyde | 14.7 g | BrC1=CC(=C(C=C1C=O)OC)OC | C9H9BrO3
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
catalyst | Pd(OAc)2 | 270 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (E)-3-(2-formyl-4,5-dimethoxy-phenyl)-acrylate | 10.8 g | C(=O)C1=C(C=C(C(=C1)OC)OC)/C=C/C(=O)OC | C13H14O5
